US08039491B2
1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)-N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxamide (46 mg, 0.10 mmol), 5-bromo-1,1-dioxo-1,2-dihydro-1λ6-benzo[d]isothiazol-3-one (26 mg, 0.10 mmol), Pd(dppf)Cl2 (4.0 mg, 0.0050 mmol), 2M Na2CO3 (150 μL, 0.30 mmol), and DMF (1 mL) were combined and heated at 120° C. in the microwave for 10 min. The mixture was filtered and purified by reverse phase preparatory HPLC to give 1-(2,2-difluoro-2H-1,3-benzodioxol-5-yl)-N-[4-methyl-3-(1,1,3-trioxo-2,3-dihydro-1λ6,2-benzothiazol-5-yl)phenyl]cyclopropane-1-carboxamide. ESI-MS m/z calc. 512.5, found 513.1 (M+1)+. Retention time 1.94 minutes.

reactant | 1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)-N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxamide | 0.10 mmol, 46 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)B2OC(C(O2)(C)C)(C)C)F | C24H26BF2NO5
reactant | 5-bromo-1,1-dioxo-1,2-dihydro-1λ6-benzo[d]isothiazol-3-one | 0.10 mmol, 26 mg | BrC=1C=CC2=C(C(NS2(=O)=O)=O)C1 | C7H4BrNO3S
reactant | Na2CO3 | 0.30 mmol, 2M, 150 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(dppf)Cl2 | 0.0050 mmol, 4.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2,2-difluoro-2H-1,3-benzodioxol-5-yl)-N-[4-methyl-3-(1,1,3-trioxo-2,3-dihydro-1λ6,2-benzothiazol-5-yl)phenyl]cyclopropane-1-carboxamide | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)C=2C=CC1=C(C(NS1(=O)=O)=O)C2)F | C25H18F2N2O6S
